US05332739
(1) Preparation of 2-(2-nitrophenyl)ethyl bromide
2.5 ml of 2-(2-nitrophenyl)ethanol and 5.4 ml of PBr3 were stirred and mixed at 0° C. for 30 minutes to carry out reaction, and the resultant reaction mixture was diluted with 30 ml of benzene and the diluted mixture was then poured into 30 ml of water. The separated organic layer was separated, dried over anhydrous sodium sulfate, and then treated under reduced pressure to distill off the solvent, thereby obtaining 3 g of the crude product of 2-(2-nitrophenyl)ethyl bromide.

reactant | 2-(2-nitrophenyl)ethanol | 2.5 ml | [N+](=O)([O-])C1=C(C=CC=C1)CCO | C8H9NO3
reactant | PBr3 | 5.4 ml | P(Br)(Br)Br | Br3P
reactant | water | 30 ml | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-nitrophenyl)ethyl bromide | 3 g | [N+](=O)([O-])C1=C(C=CC=C1)CCBr | C8H8BrNO2
